US06268387B1
3-(4-Methyl-phenylamino)-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure of Example 25 using 3-amino-4-methoxy-N-phenyl-benzamide (1.1 g, 4.5 mmol), tris(4-methylphenyl)bismuthine (2.5 g, 5.2 mmol), copper(II) acetate (0.82 g, 4.5 mmol), and triethylamine (0.46 g, 4.5 mmol) to afford the product (0.8 g); m.p. 187-188° C. after recrystallization from acetonitrile then ethyl acetate.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.5 mmol, 1.1 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | tris(4-methylphenyl)bismuthine | 5.2 mmol, 2.5 g | CC1=CC=C(C=C1)[Bi](C1=CC=C(C=C1)C)C1=CC=C(C=C1)C
reactant | triethylamine | 4.5 mmol, 0.46 g | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 4.5 mmol, 0.82 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 3-(4-Methyl-phenylamino)-4-methoxy-N-phenyl-benzamide | 0.8 g | CC1=CC=C(C=C1)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C21H20N2O2
